US07737166B2
N-(1-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)methanesulfonamide (#100)
With cooling with ice, trifluoroacetic acid (1 ml) was added to a dichloromethane (2 ml) solution of tert-butyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)carbamate (I-195) (77.6 mg, 0.15 mmol), followed by stirring with cooling with ice for 1 hour. The reaction liquid was concentrated under reduced pressure, dissolved in dichloromethane (2 ml), and with cooling with ice, triethylamine (210 ml, 1.52 mmol) and methanesulfonyl chloride (25.6 μl, 0.33 mmol) were added, followed by stirring at room temperature for 1 hour. The reaction liquid was concentrated under reduced pressure, the residue was dissolved in chloroform (50 ml), and washed with saturated brine (50 ml). After drying over anhydrous sodium sulfate and concentration, the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=10:1) to obtain the entitled compound (15.0 mg, 19.7%) as a colorless solid.

reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (1-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)carbamate | 0.15 mmol, 77.6 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)NC(OC(C)(C)C)=O)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C29H36N6O3
reactant | triethylamine | 1.52 mmol, 210 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.33 mmol, 25.6 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(1-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}azetidin-3-yl)methanesulfonamide | 15.0 mg, 19.7% | C(#N)C1=C(C(=C(C2=C1N=C(O2)N2CC(C2)NS(=O)(=O)C)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C25H30N6O3S
